US06548677B1
Preparation of 3,6-dibromo-2-methylbenzyl bromide
183.2 g (0.65 mol) of 3,6-dibromo-1,2-xylene are initially charged in 750 ml of chlorobenzene, and 2 g of conc. H2SO4 and 270.7 g (1.57 mol) of 47% strength hydrobromic acid are then added. The reaction mixture is heated to 70° C. and 0.3 g of AIBN are added. Over 14 h, 237.7 g (0.7 mol) of a 10% strength solution of hydrogen peroxide are added at 75-77° C., the mixture is stirred for another 120 min., washed 2× with 250 ml of water and once with 250 ml of saturated sodium bicarbonate solution, and the chlorobenzene is then distilled off.

reactant | 3,6-dibromo-1,2-xylene | 0.65 mol, 183.2 g | BrC1=C(C(=C(C=C1)Br)C)C | C8H8Br2
reactant | H2SO4 | 2 g | OS(=O)(=O)O | H2O4S
reactant | hydrobromic acid | Br | BrH
reactant | AIBN | 0.3 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | hydrogen peroxide | OO | H2O2
solvent | chlorobenzene | 750 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 3,6-dibromo-2-methylbenzyl bromide | BrC=1C(=C(CBr)C(=CC1)Br)C | C8H7Br3
